US08058299B2
A mixture of carbodiimidazole (624 mg, 3.85 mmol) and 4-(N-hydroxycarbamimidoyl)-cyclohexanecarboxylic acid methyl ester (770 mg, 3.85 mmol) in anhydrous 1,4 dioxane (15 mL) was heated in a sealed vial in an oil bath at 100° C. for 30 min. The reaction was concentrated, diluted with ethyl acetate (200 mL) washed with aqueous ammonium chloride (sat'd, 200 mL) and brine (200 mL), dried over sodium sulfate, and concentrated to give 4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclohexanecarboxylic acid methyl ester (580 mg 67%) as a clear light yellow oil. LCMS calcd for C10H14N2O4 (m/e) 226, obsd 225 (M−H).

reactant | carbodiimidazole | 3.85 mmol, 624 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-(N-hydroxycarbamimidoyl)-cyclohexanecarboxylic acid methyl ester | 3.85 mmol, 770 mg | COC(=O)C1CCC(CC1)C(NO)=N | C9H16N2O3
solvent | 1,4 dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclohexanecarboxylic acid methyl ester | 580 mg, 67% | COC(=O)C1CCC(CC1)C1=NOC(N1)=O | C10H14N2O4
